* NGSPICE file created from NO_ClkGen.ext - technology: gf180mcuD

.subckt gf180mcu_fd_sc_mcu9t5v0__nand2_1 ZN VSS VDD A2 A1 VNW VPW
X0 ZN A2 VDD VNW pfet_05v0 ad=0.4277p pd=2.165u as=0.7238p ps=4.17u w=1.645u l=0.5u
X1 VDD A1 ZN VNW pfet_05v0 ad=0.7238p pd=4.17u as=0.4277p ps=2.165u w=1.645u l=0.5u
X2 ZN A1 a_245_69# VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.2112p ps=1.64u w=1.32u l=0.6u
X3 a_245_69# A2 VSS VPW nfet_05v0 ad=0.2112p pd=1.64u as=0.5808p ps=3.52u w=1.32u l=0.6u
.ends

.subckt gf180mcu_fd_sc_mcu9t5v0__inv_1 I VDD VSS ZN VNW VPW
X0 ZN I VDD VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X1 ZN I VSS VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
.ends

.subckt NO_ClkGen CLKB CLKbuf PHI_2 PHI_1 CLK
Xgf180mcu_fd_sc_mcu9t5v0__nand2_1_0 gf180mcu_fd_sc_mcu9t5v0__inv_1_1/I VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW
+ gf180mcu_fd_sc_mcu9t5v0__inv_1_0/ZN CLKB gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS
+ gf180mcu_fd_sc_mcu9t5v0__nand2_1
Xgf180mcu_fd_sc_mcu9t5v0__nand2_1_1 gf180mcu_fd_sc_mcu9t5v0__inv_1_7/I VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW
+ CLKbuf gf180mcu_fd_sc_mcu9t5v0__inv_1_4/ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW
+ VSUBS gf180mcu_fd_sc_mcu9t5v0__nand2_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_0 gf180mcu_fd_sc_mcu9t5v0__inv_1_0/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW
+ VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1_0/ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS
+ gf180mcu_fd_sc_mcu9t5v0__inv_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_1 gf180mcu_fd_sc_mcu9t5v0__inv_1_1/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW
+ VSUBS PHI_2 gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_2 PHI_2 gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS
+ gf180mcu_fd_sc_mcu9t5v0__inv_1_3/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_3 gf180mcu_fd_sc_mcu9t5v0__inv_1_3/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW
+ VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1_4/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS
+ gf180mcu_fd_sc_mcu9t5v0__inv_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_4 gf180mcu_fd_sc_mcu9t5v0__inv_1_4/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW
+ VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1_4/ZN gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS
+ gf180mcu_fd_sc_mcu9t5v0__inv_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_5 CLK gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS CLKB
+ gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_6 CLKB gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS
+ CLKbuf gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_7 gf180mcu_fd_sc_mcu9t5v0__inv_1_7/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW
+ VSUBS PHI_1 gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_8 PHI_1 gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS
+ gf180mcu_fd_sc_mcu9t5v0__inv_1_9/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_9 gf180mcu_fd_sc_mcu9t5v0__inv_1_9/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW
+ VSUBS gf180mcu_fd_sc_mcu9t5v0__inv_1_0/I gf180mcu_fd_sc_mcu9t5v0__inv_1_9/VNW VSUBS
+ gf180mcu_fd_sc_mcu9t5v0__inv_1
.ends

